US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,3-dimethylaniline to yield 2-[(2,3-dimethylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,3-dimethylaniline | CC1=C(N)C=CC=C1C | C8H11N
product | 2-[(2,3-dimethylphenyl)amino]phenylacetic acid | CC1=C(C=CC=C1C)NC1=C(C=CC=C1)CC(=O)O | C16H17NO2
